US05418238
A mixture of triflouroacetaldehyde ethyl hemiacetal (2.58 ml), 2-nitropropane (1.81 ml) and potassium carbonate (111 mg) is stirred at 65° C. (oil bath temperature) for 6 hours followed by 2.5 days at room temperature. The reaction mixture is diluted with water (100 ml) and extracted with methylene chloride (100 ml+5×50 ml). The combined organic layers are dried over sodium sulphate and the solvent is evaporated under reduced pressure. Purification of the liquid residue by flash chromatography on silica gel (eluant n-hexane/ethylacetate 85:15) affords 3-methyl-3-nitro-1,1,1-trifluorobutan-2-ol as an oil (2.005 g)

reactant | triflouroacetaldehyde ethyl hemiacetal | 2.58 ml | C(C)OC(C(F)(F)F)O | C4H7F3O2
reactant | 2-nitropropane | 1.81 ml | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | potassium carbonate | 111 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 ml | O | H2O
product | 3-methyl-3-nitro-1,1,1-trifluorobutan-2-ol | 2.005 g | CC(C(C(F)(F)F)O)(C)[N+](=O)[O-] | C5H8F3NO3
